US09290500B2
2-(naphthalen-1-yl)pyrazolo[1,5-a]pyrimidin-7(4H)-one (4.0 g, 15 mmol) is heated in phosphoryl chloride (28 mL) in a sealed vial at 105° C. and stirred for 5 hours. The crude reaction mixture is cooled to room temperature and poured slowly over ice. The resulting solid is collected on a Buchner funnel to provide 7-chloro-2-(1-naphthyl)pyrazolo[1,5-a]pyrimidine (4.3 g, yield 100%). LCMS: (AA) M+1 280.

reactant | 2-(naphthalen-1-yl)pyrazolo[1,5-a]pyrimidin-7(4H)-one | 15 mmol, 4.0 g | C1(=CC=CC2=CC=CC=C12)C1=NN2C(NC=CC2=O)=C1 | C16H11N3O
reactant | phosphoryl chloride | 28 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-(1-naphthyl)pyrazolo[1,5-a]pyrimidine | 4.3 g, yield 100% | ClC1=CC=NC=2N1N=C(C2)C2=CC=CC1=CC=CC=C21 | C16H10ClN3
